US07642264B2
2-Iodo-4-methyl-6-(4-trifluoromethyl-phenyl)-pyridine
The title compound was prepared from 2-bromo-4-methyl-4-(4-trifluoromethylphenyl)-pyridine (example A.57) (29.0 g, 92 mmol), sodium iodide (27.5 g, 183 mmol), copper(I) iodide (0.874 g, 5 mol %) and N,N′-dimethylethylenediamine (1.3 mL, 10 mol %) in dioxane (150 mL) according to the general procedure Ia to d preparation of iodides. Obtained as alight yellow solid (32.72 g, 98%). MS (ISP) 364.2 [(M+H)+].

reactant | 2-bromo-4-methyl-4-(4-trifluoromethylphenyl)-pyridine | 92 mmol, 29.0 g | BrC1=NC=CC(C1)(C1=CC=C(C=C1)C(F)(F)F)C | C13H11BrF3N
reactant | sodium iodide | 183 mmol, 27.5 g | [I-].[Na+]
reactant | N,N′-dimethylethylenediamine | 1.3 mL | CNCCNC | C4H12N2
reactant | dioxane | 150 mL | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 0.874 g | [Cu]I
product | 2-Iodo-4-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | IC1=NC(=CC(=C1)C)C1=CC=C(C=C1)C(F)(F)F | C13H9F3IN
